US05338857
From 1.5 g (6.6 mmol) of 3-phenyl-5-(3-methyl-butyryl)isoxazole prepared above in the procedure (2), 0.84 g (7.9 mmol) of piperidine hydrochloride, and 0.26 g (8.7 mmol) of paraformaldehyde, the free base of 3-phenyl-5-{2-(1-pyrrolidinylmethyl)-3-methylbutyryl}-isoxazole was obtained as crystals in a manner similar to Example 28. Analytical results of the crystals obtained: Yield: 0.7 g (34.3%). Melting point: 77°-79° C.

reactant | 3-phenyl-5-(3-methyl-butyryl)isoxazole | 6.6 mmol, 1.5 g | C1(=CC=CC=C1)C1=NOC(=C1)C(CC(C)C)=O | C14H15NO2
reactant | piperidine hydrochloride | 7.9 mmol, 0.84 g | Cl.N1CCCCC1
reactant | paraformaldehyde | 8.7 mmol, 0.26 g | C=O | CH2O
product | 3-phenyl-5-{2-(1-pyrrolidinylmethyl)-3-methylbutyryl}-isoxazole | C1(=CC=CC=C1)C1=NOC(=C1)C(C(C(C)C)CN1CCCC1)=O | C19H24N2O2
